US08053447B2
4-(Piperidin-4-ylmethoxy)-benzoic acid methyl ester
To a solution of 4-(4-methoxycarbonyl-phenoxymethyl)-piperidine-1-carboxylic acid t-butyl ester (8.5 g, 24.61 mmol) in DCM (150 mL) was added TFA (45 mL) and the mixture was stirred for 2 hrs at room temperature. The volatiles were evaporated in vacuo and the residue crystallised from addition of diethyl ether. The solid was filtered off washed with a small portion of diethyl ether and dried. This afforded 8.8 g (99%) of 4-(piperidin-4-ylmeth-oxy)-benzoic acid methyl ester as a TFA salt.

reactant | 4-(4-methoxycarbonyl-phenoxymethyl)-piperidine-1-carboxylic acid t-butyl ester | 24.61 mmol, 8.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)C(=O)OC | C19H27NO5
reactant | TFA | 45 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-(Piperidin-4-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1CCNCC1)=O | C14H19NO3
